US07390923B2
3-(4-Chloro-3-nitrophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared as described in Example 1 starting from 4-chloro-3-nitrophenol and 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide. The crude product was purified by flash chromatography (dichloromethane-0.2% methanol). 1H NMR (400 MHz, DMSO-d6): 1.45 (3H, s), 2.53 (3H, s), 4.10 (1H, d, J=9.9 Hz), 4.36 (1H, d, J=9.9 Hz), 6.28 (1H, s), 7.28 (1H, dd, J=9.0 Hz, J=3.0 Hz), 7.62 (1H, d, J=9.0 Hz), 7.68 (1H, d, J=3.0 Hz), 7.88 (1H, dd, J=9.0 Hz, J=2.3 Hz), 7.92 (1H, d, J=2.0 Hz), 8.03 (1H, d, J=9.0 Hz), 10.15 (1H, s).

reactant | 4-chloro-3-nitrophenol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(4-Chloro-3-nitrophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | ClC1=C(C=C(OCC(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C)(C)O)C=C1)[N+](=O)[O-] | C17H16ClN3O7
